US04642308
The procedure is similar to that described in Example 1, but starting with 4-ethoxybenzoic acid (8 g), N,N'-carbonyldiimidazole (7.8 g) and 2-amino-7-methoxy-1,8-naphthyridine (5.6 g). The product produced by precipitation in water (9.4 g; m.p. 74° C.) is dissolved in boiling acetonitrile (94 cc). After 3 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with acetonitrile (3×20 cc) and dried at 30° C. under reduced pressure (0.067 kPa). N-(7-methoxy-1,8-naphthyridin-2-yl)-4-ethoxybenzamide (7 g) is produced, m.p. 145° C.

reactant | 4-ethoxybenzoic acid | 8 g | C(C)OC1=CC=C(C(=O)O)C=C1 | C9H10O3
reactant | 2-amino-7-methoxy-1,8-naphthyridine | 5.6 g | NC1=NC2=NC(=CC=C2C=C1)OC | C9H9N3O
reactant | acetonitrile | 94 cc | C(C)#N | C2H3N
solvent | water | 9.4 g | O | H2O
product | N-(7-methoxy-1,8-naphthyridin-2-yl)-4-ethoxybenzamide | 7 g | COC1=CC=C2C=CC(=NC2=N1)NC(C1=CC=C(C=C1)OCC)=O | C18H17N3O3
